Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
penicillin
 
Attending: ___
 
Chief Complaint:
abdominal swelling and pain
 
Major Surgical or Invasive Procedure:
___ guided para on ___ removed 

 
History of Present Illness:
___ with h/o T2DM, cryptogenic cirrhosis c/b non-occlusive PVT,
esophageal varices (___) s/p banding, and portal hypertension
presents to the emergency department with abdominal distention. 
 
He was seen today by Dr. ___ in ___ clinic with
worsening abdominal distention. Per the hepatology outpatient
note: "He has been stable in term of fluid overload over past
year and he has been evaluated for umbilical hernia repair. He
underwent cardiac evaluation with echocardiogram showing severe
AS but still was cleared for surgery due to lack of symptoms."

1 month ago, he started having increase in abdominal girth and
discomfort with increase in weight going up to 247. He doubled
the dose of spironolactone 1 week ago from 100mg daily to 200mg
daily. He lost almost 13 pounds. 3 days ago, he felt chills
without documented fever, No URT symptoms, no vomiting, no SOB 
or
chest pain. No diarrhea, melena or rectal bleeding. Today he
reports abdominal distention, and pain. Denies confusion or
recent falls.

Regarding his cirrhosis history, his cryptogenic cirrhosis was
previously decompensated by a variceal bleed in ___ and
subsequent eradication with banding. He has been intolerant of
beta blockade in the past and also has iron deficiency anemia 
for
which he is on ferrous gluconate. 

On evaluation on the floor, the patient states that he still has
diffuse abdominal pain.  He states that, 2 months ago, he 
weighed
234 pounds.  On arrival to the floor, he weighs 238 pounds.  He
endorses a chronic cough, but no worsening of his cough.  No one
sick at home.  He denies dysuria, or urinary frequency.

Of note, he has insulin-dependent diabetes.  He was taking 24
units of ___ daily.  His most recent hemoglobin A1c was 5.1%,
so his PCP decrease his ___ to 18 units daily.  The patient
states that he has not had any ___ in 4 days, and his blood
sugars have been in the ___ to low 100s.

In the ED, initial VS were: 96.6 76 115/72 18 100% RA

Exam notable for:
EXAM: alert, oriented, 
___: Murmur. clear lungs 
ABD: mod amount ascites, tender 
EXT: + 2 EDEMA 

Labs showed:
White blood cell count 3, hemoglobin 11.9, platelet 68, INR 1.5,
AST 48, ALT 28, albumin 2.8, lactate 2.9.  UA notable for
positive nitrites, large leuks, 49 WBCs, moderate bacteria.

Imaging showed:
CXR:
Heart size is normal.  The mediastinal and hilar contours are
normal. Thepulmonary vasculature is normal. Lungs are clear.  No
pleural effusion orpneumothorax is seen. There are no acute
osseous abnormalities.

Abdominal Ultrasound:
Targeted grayscale ultrasound images were obtained of the 4
quadrants of the abdomen, revealing moderate ascites.  The
largest pocket is in the right lower quadrant.  The amount of
ascites appears larger when compared to prior CT.

Hepatology was consulted, who recommended UA/Ucx, albumin, and
admission to hepatology with therapeutic paracentesis in the AM. 


Patient received: 2g ceftriaxone
 
Past Medical History:
HTN  
Gout  
Cirrosis  
Esophageal Varices  
 
Social History:
___
Family History:
No known family history of cirrosis, GI issues. Father had CAD 
and died of MI. Mother had macular degeneration.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: 98.2PO ___ 18 96 RA
GENERAL: NAD, alert and oriented x3
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: 4 out of 6 crescendo decrescendo murmur best auscultated at
the base of the heart, radiates to the carotids
PULM: CTAB
GI: Distended, reducible umbilical hernia, positive fluid wave,
diffusely mildly tender to palpation, no rebound tenderness 
EXTREMITIES: no cyanosis, clubbing, or edema, no asterixis
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes no palmar erythema or spider angiomata

DISCHARGE PHYSICAL EXAM: 
========================
24 HR Data (last updated ___ @ 1518)
    Temp: 98.2 (Tm 98.2), BP: 95/61, HR: 79, RR: 18, O2 sat: 
98%, O2 delivery: RA  
GENERAL: NAD, alert and oriented x3
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, ___ systolic murmur
PULM: CTAB
ABD: Distended, reducible umbilical hernia, positive fluid wave,
diffusely mildly tender to palpation, no rebound tenderness 
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis
DERM: warm and well perfused, no excoriations or lesions, no
rashes no palmar erythema or spider angiomata

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 02:52PM BLOOD WBC-3.0* RBC-3.61* Hgb-11.9* Hct-36.6* 
MCV-101* MCH-33.0* MCHC-32.5 RDW-14.6 RDWSD-54.9* Plt Ct-68*
___ 02:52PM BLOOD Neuts-64.0 ___ Monos-9.2 Eos-3.1 
Baso-1.0 Im ___ AbsNeut-1.89 AbsLymp-0.64* AbsMono-0.27 
AbsEos-0.09 AbsBaso-0.03
___ 02:52PM BLOOD ___ PTT-30.4 ___
___ 06:20AM BLOOD ___
___ 02:52PM BLOOD Glucose-168* UreaN-20 Creat-1.1 Na-137 
K-4.3 Cl-103 HCO3-23 AnGap-11
___ 02:52PM BLOOD ALT-28 AST-48* AlkPhos-121 TotBili-1.5
___ 06:20AM BLOOD Albumin-2.5* Calcium-8.2* Phos-3.1 Mg-1.6
___ 03:02PM BLOOD Lactate-2.9*

IMAGING: 
========
Abdominal ultrasound (___)
Moderate ascites.  Largest pocket in the right lower quadrant.

DISCHARGE LABS: 
===============
___ 07:21AM BLOOD WBC-2.7* RBC-3.31* Hgb-11.3* Hct-32.6* 
MCV-99* MCH-34.1* MCHC-34.7 RDW-14.4 RDWSD-51.9* Plt Ct-52*
___ 07:21AM BLOOD ___ PTT-32.0 ___
___ 07:21AM BLOOD Glucose-97 UreaN-21* Creat-1.2 Na-136 
K-4.4 Cl-103 HCO3-24 AnGap-9*
___ 07:21AM BLOOD ALT-21 AST-34 AlkPhos-96 TotBili-1.8*
___ 07:21AM BLOOD Calcium-8.2* Phos-3.3 Mg-1.6
___ 06:46AM BLOOD Lactate-1.0
 
Brief Hospital Course:
SUMMARY STATEMENT: 
==================
___ with h/o T2DM, cryptogenic cirrhosis c/b non-occlusive PVT,
esophageal varices (___) s/p banding, and portal 
hypertension,
who was admitted for abdominal distention. 

ACUTE ISSUES: 
=============
#Decompensated cirrhosis
Upon admission, MELD-Na 15, Child class B. The patient presented 
with 1 month of
worsening abdominal distention, and 3 days of worsening 
abdominal pain. He had no asterixis and no history of hepatic 
encephalopathy. Of note, the patient weighed 245 pounds at an 
outpatient visit in ___. On this admission, he weighed 238 
pounds. Ascites fluid studies were negative for SBP. The patient 
did receive 2 g of ceftriaxone in the ED for initial concern of 
SBP. His hernia was reducible on physical exam, so this was 
likely not contributing to his pain. His lactate was slightly 
elevated at 2.9 on admission, but downtrended to 1.0 on repeat 
labs. His abdominal pain was deemed likely secondary to 
worsening of his ascites from his decompensated cirrhosis, and 
he underwent ___ guided therapeutic paracentesis with 4.25L 
removed on ___, which was followed by 8g/kg albumin repletion. 
Additionally he was actively diuresed with IV lasix 20mg on ___ 
and spironolactone 200mg. He was started on midodrine 5mg TID on 
___ for low SBPs ___. He was discharged with lasix 20mg 
and spironolactone 150mg. His discharge weight was: 103.06 kg 
(227.2 lb). His Cr on discharge was 1.2. 

#Pancytopenia
#Coagulopathy
#Iron deficiency anemia
Patient presented with a hemoglobin of 11.9, macrocytosis, white 
count of 3, platelets of 68, INR 1.5. This is all likely 
secondary to his liver disease. There were no active signs of 
bleeding and his hemoglobin stayed stable during hospital stay. 
Discharge hemoglobin 11.3.

#Asymptomatic bacteriuria
The patient's UA is notable for positive nitrites, positive leuk 
esterases, positive bacteria. The patient denied any urinary 
symptoms. He had no CVA tenderness on exam. He did receive 2 g 
of ceftriaxone in the ED. Urine cultures were pending on 
discharge. 

CHRONIC ISSUES: 
===============
#T2DM
Patient with a history of type 2 diabetes, but his most recent 
outpatient hemoglobin A1c was 5.1. This suggests that his 
diabetes was over-treated with the 24 units of glargine that he 
was taking. Patient's glargine was heled on admission and he was 
kept on Humalog ISS. His FSBS ranged from 114 to maximum 166 and 
only required a one time 2u Humalog while admitted. His home 
glargine was held on discharge and he was instructed to record 
FSBS at home. 

#Esophageal varices status post banding
The patient had esophageal varices and banding in ___. There 
was no active evidence of bleeding. He denied melena and guaiac 
was negative on admission. He has been unable to tolerate 
beta-blockers in the past for bleeding prophylaxis.

#Gout
Continued on home allopurinol

#Chronic Bilateral leg cramping for which he is prescribed 5 mg 
oxycodone as needed by his PCP, which was verified and continued 
during hospital stay. 

#GERD
Continued home pantoprazole

TRANSITIONAL ISSUES:
=====================
Discharge weight: 103.06 kg (227.2 lb) 
Discharge hemoglobin: 11.3
Discharge MELD-Na score: 19

[] Diuretic regimen on discharge: 20mg lasix, 150mg 
spironolactone. Please follow up BMP, weight and volume status 
at follow up exam and adjust diuretic regimen as needed.
[] Please follow up CMP - patient discharged with lab script for 
CMP to be collected on ___, requested to be faxed to both Dr. 
___ and Dr. ___
[] Started on midodrine 5mg TID for low SBPs 90-100s while 
admitted, please titrate as appropriate
[] Instructed to hold home nightly glargine on admission as 
recent outpatient A1c 5.1 and FSBS while admitted ranging 
114-166. Was instructed record FSBS at home with plan to follow 
up with PCP to adjust his insulin regimen as needed. 
[] Removed 4.25L by ___ guided paracentesis on ___, received 
37.5g albumin afterwards

#CODE: Full (presumed)
#CONTACT: ___ (wife) Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Spironolactone 100 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Glargine 18 Units Bedtime
5. OxyCODONE (Immediate Release) 5 mg PO BID:PRN leg cramps 
6. Ferrous GLUCONATE 324 mg PO DAILY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Midodrine 5 mg PO TID 
RX *midodrine 5 mg 1 tablet(s) by mouth three times daily Disp 
#*90 Tablet Refills:*0 
3.  Spironolactone 150 mg PO DAILY 
RX *spironolactone 50 mg 3 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
4.  Allopurinol ___ mg PO DAILY  
5.  Ferrous GLUCONATE 324 mg PO DAILY  
6.  OxyCODONE (Immediate Release) 5 mg PO BID:PRN leg cramps  
7.  Pantoprazole 40 mg PO Q24H  
8. HELD- Glargine 18 Units Bedtime This medication was held. Do 
not restart Insulin until your doctor tells you to
9.Outpatient Lab Work
please collect CMP on ___ for ICD 9 code 78___.59
Please fax to: Dr. ___ at ___ and ___ at ___
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
Decompensated cirrhosis 

SECONDARY DIAGNOSIS: 
====================
cryptogenic cirrhosis c/b nonocclusive PVT, esophageal varices 
s/p banding, and portal hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you had worsening 
abdominal swelling and pain. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had an ___ guided paracentesis with drainage of >4L of 
fluid and were given albumin afterwards.
- We adjusted your home diuretic medications to include: lasix 
20mg daily, and spironolactone 150mg daily. You will need to 
follow closely with your PCP as well as Dr. ___ as an 
outpatient to ensure that this is an appropriate dose of 
diuretics. 
- You improved and were ready to leave the hospital. 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- Seek medical attention if you have new or concerning symptoms 
or you develop worsening abdominal swelling and pain, fever, 
chills, black or bloody stools, or any other symptoms that 
concern you. 

It was a pleasure participating in your care. We wish you the 
best!
 - Your ___ Care Team

 
Followup Instructions:
___